US08377930B2
To a solution of ethyl 2-methoxy-2-(quinolin-5-yl)acetate (0.9 g, 3.67 mmol) in absolute ethanol (25 mL) was added hydrazine hydrate (1.0 mL, 20.5 mmol) and the mixture was heated at 85° C. for 18.5 hours. After cooling to room temperature, the mixture was poured into ice-water (˜150 mL) then concentrated in vacuo. The residue was taken up in EtOAc, washed with diluted brine once, water twice then brine. The organics were dried over Na2SO4 and concentrated in vacuo to give 2-methoxy-2-(quinolin-5-yl)acetohydrazide as an off-white foam (0.651 g, 77% yield) that was used without further purification.

reactant | ethyl 2-methoxy-2-(quinolin-5-yl)acetate | 3.67 mmol, 0.9 g | COC(C(=O)OCC)C1=C2C=CC=NC2=CC=C1 | C14H15NO3
reactant | hydrazine hydrate | 20.5 mmol, 1.0 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-methoxy-2-(quinolin-5-yl)acetohydrazide | 0.651 g, 77% yield | COC(C(=O)NN)C1=C2C=CC=NC2=CC=C1 | C12H13N3O2
